* DIODES INCORPORATED AND ITS AFFILIATED COMPANIES AND SUBSIDIARIES (COLLECTIVELY, "DIODES") 
* PROVIDE THESE SPICE MODELS AND DATA (COLLECTIVELY, THE "SM DATA") "AS IS" AND WITHOUT ANY 
* REPRESENTATIONS OR WARRANTIES, EXPRESS OR IMPLIED, INCLUDING ANY WARRANTY OF MERCHANTABILITY 
* OR FITNESS FOR A PARTICULAR PURPOSE, ANY WARRANTY ARISING FROM COURSE OF DEALING OR COURSE OF 
* PERFORMANCE, OR ANY WARRANTY THAT ACCESS TO OR OPERATION OF THE SM DATA WILL BE UNINTERRUPTED, 
* OR THAT THE SM DATA OR ANY SIMULATION USING THE SM DATA WILL BE ERROR FREE. TO THE MAXIMUM 
* EXTENT PERMITTED BY LAW, IN NO EVENT WILL DIODES BE LIABLE FOR ANY DIRECT OR INDIRECT, 
* SPECIAL, INCIDENTAL, PUNITIVE OR CONSEQUENTIAL DAMAGES ARISING OUT OF OR IN CONNECTION WITH 
* THE PRODUCTION OR USE OF SM DATA, HOWEVER CAUSED AND UNDER WHATEVER CAUSE OF ACTION OR THEORY 
* OF LIABILITY BROUGHT (INCLUDING, WITHOUT LIMITATION, UNDER ANY CONTRACT, NEGLIGENCE OR OTHER 
* TORT THEORY OF LIABILITY), EVEN IF DIODES HAS BEEN ADVISED OF THE POSSIBILITY OF SUCH DAMAGES, 
* AND DIODES' TOTAL LIABILITY (WHETHER IN CONTRACT, TORT OR OTHERWISE) WITH REGARD TO THE SM 
* DATA WILL NOT, IN THE AGGREGATE, EXCEED ANY SUMS PAID BY YOU TO DIODES FOR THE SM DATA.



.subckt AS431 ANODE CATHODE REFIN
Q8 Q2_C Q2_C R4_N 0 P1
Q9 CATHODE Q7_C Q9_E 0 n1
R8 Q4_E ANODE 800
R9 Q2_E R9_N 1k
Q10 CATHODE R6_P ANODE 0 n1 5
Q11 Q7_C R10_P ANODE 0 n1
* Here we had the following line : 
*    ```.nodeset R3_N 1```
* It triggered the following error in KiCad 8 simulation :
* ```
*    Error on line 24 or its substitute:
*    .nodeset r3_n 1
*    Error: .nodeset syntax error.
*    Error: circuit not parsed.
* ```
* Therefore it is removed until I understand how to fix it
C2 Q2_E C2_N 2p
C3 R9_N R10_P 2p
R10 R10_P R1_N 1k
C1 CATHODE Q7_C 40p
D1 ANODE Q7_C DIODE
D2 ANODE CATHODE DIODE
R4 CATHODE R4_N 800
Q2 Q2_C Q1_E Q2_E 0 n1
Q3 R9_N C2_N ANODE 0 n1
R5 CATHODE R5_N 800
R6 R6_P Q9_E 150
Q1 CATHODE REFIN Q1_E 0 n1
R7 ANODE R6_P 10k
Q6 Q7_C Q7_C REFIN 0 n1
Q7 Q7_C Q2_C R5_N 0 P1
R1 R3_N R1_N 2.4k
R2 R3_N C2_N 7.2k
Q4 C2_N R1_N Q4_E 0 n1
Q5 R1_N R1_N ANODE 0 n1
R3 Q1_E R3_N 3.22k
.model p1 pnp bf=50
.model n1 npn bf=100 tf=2n cjc=1p is=5e-18 NF=1.07
.model diode d rs=1 cjo=2p
.ends AS431