* Model: PS2561F-1
* A = PIN 1: diode anode
* K = PIN 2: diode cathode
* E = PIN 3: BJT emitter
* C = PIN 4: BJT collector
.SUBCKT PS2561F A K E C
D1 A D LED
*OptoLED
Vsense D K 0
*Forward If current sense
*using Vsense
Hd R 0 Vsense 1
*I-V (current dependent voltage source)
Rd R T 100K
Cd T 0 20p
Gctr C B TABLE
* Photodetector {(IC vs IF) / * Q1 BF}
* where the data of the collector current
* versus forward current
* are derived from the CTR
* graph using polynomial fit
+ {If(V(T)<=3m,
+ ((-80000000000*PWR(V(T),5)+800000000*
+ PWR(V(T),4)-3000000*PWR(V(T),3)
++5177.2*PWR(V(T),2)+0.2453*V
+ (T)-0.00005)*1.04/700),
+ ((9000000*PWR(V(T),5)-
+998113*PWR(V(T),4)+42174*PWR
+ (V(T),3)-
+ 861.32*PWR(V(T),2)+
+ 9.0836*V(T)-0.0078)*0.945/700))}
+ (0,0) (0.1m, 0.1m)
Q1 C B E detector
.model LED D IS=1p N=1.999644
+ RS=0 BV=6 IBV=10u
+ CJO=10p EG=1.424 TT=500n
.model detector NPN IS=2.857P BF=700
+ NF=1.1786653 BR=20 TF=80.64p
+ TR=4.56886n
+ CJE=16.315P CJC=21.1189P VAF=250 ISS=0
+ CJS=44.5657p ISC=120p
.ends
*$