* DIODES INCORPORATED AND ITS AFFILIATED COMPANIES AND SUBSIDIARIES (COLLECTIVELY, "DIODES") 
* PROVIDE THESE SPICE MODELS AND DATA (COLLECTIVELY, THE "SM DATA") "AS IS" AND WITHOUT ANY 
* REPRESENTATIONS OR WARRANTIES, EXPRESS OR IMPLIED, INCLUDING ANY WARRANTY OF MERCHANTABILITY 
* OR FITNESS FOR A PARTICULAR PURPOSE, ANY WARRANTY ARISING FROM COURSE OF DEALING OR COURSE OF 
* PERFORMANCE, OR ANY WARRANTY THAT ACCESS TO OR OPERATION OF THE SM DATA WILL BE UNINTERRUPTED, 
* OR THAT THE SM DATA OR ANY SIMULATION USING THE SM DATA WILL BE ERROR FREE. TO THE MAXIMUM 
* EXTENT PERMITTED BY LAW, IN NO EVENT WILL DIODES BE LIABLE FOR ANY DIRECT OR INDIRECT, 
* SPECIAL, INCIDENTAL, PUNITIVE OR CONSEQUENTIAL DAMAGES ARISING OUT OF OR IN CONNECTION WITH 
* THE PRODUCTION OR USE OF SM DATA, HOWEVER CAUSED AND UNDER WHATEVER CAUSE OF ACTION OR THEORY 
* OF LIABILITY BROUGHT (INCLUDING, WITHOUT LIMITATION, UNDER ANY CONTRACT, NEGLIGENCE OR OTHER 
* TORT THEORY OF LIABILITY), EVEN IF DIODES HAS BEEN ADVISED OF THE POSSIBILITY OF SUCH DAMAGES, 
* AND DIODES' TOTAL LIABILITY (WHETHER IN CONTRACT, TORT OR OTHERWISE) WITH REGARD TO THE SM 
* DATA WILL NOT, IN THE AGGREGATE, EXCEED ANY SUMS PAID BY YOU TO DIODES FOR THE SM DATA.


* PERSONNAL NOTES :
* -----------------
* 
* In the following model initial line were :
*   - ```.MODEL LargeN NPN IS=3.8E-16 LOT/1/UNIFORM=50% DEV/GAUSS=1%```
*   - ```+ BF=220 LOT/1/UNIFORM=50% DEV/GAUSS=1%```
*   - ```.MODEL Rmod2 RES (R=1 LOT/1/UNIFORM=1% DEV/GAUSS=0.5%)```
*   - ```.MODEL Rmod1 RES (R=99.5 TC1=1E-3 TC2=1E-5 LOT/1/UNIFORM=1% DEV/GAUSS=0.5%)```
* apparently this is PSpice language and triggers an ``` expected new line``` error
* so I need to find a way to translate the UNIFOR and GAUSS part to usual
* ngspice/spice3 model



*ZETEX ZXCT1009F Spice Model v2.1 Last revision 02/02/07
    *
    *
    .SUBCKT ZXCT1009F 1 2 3
    *
    *Pins 1.Load 2.Vin 3.Iout
    *
    I1 4 3 4uA
    R6 4 3 20E6
    R1 2 4 Rmod1 1
    Q1 4 5 3 LargeN
    C1 5 11 3E-9
    R5 11 3 10
    R2 5 6 10E3
    D1 6 8 Dmod
    R3 7 6 1
    V2 8 3 10
    E1 7 3 4 9 1000
    V1 10 1 100e-3
    I2 9 10 100E-3
    R4 9 10 Rmod2 1
    .MODEL Dmod D IS=1E-15 BV=20 IBV=1E-3 
    .MODEL LargeN NPN IS=3.8E-16
    + BF=220
    + NK=.75 IKF=17e-3 VAF=60
    + ISE=1.8E-16 NE=1.4 BR=.7 IKR=3e-2 VAR=7 ISC=5E-12 NC=1.321 RB=300
    + RE=19.7 RC=63.4 CJC=51E-12 MJC=.42 VJC=.595 CJE=.21E-12 MJE=.33
    + VJE=.7 TF=1.5E-10 TR=6E-9 XTF=0.3 VTF=6 ITF=5E-5 XTB=1.17 XTI=5.4
    + KF=2E-13 AF=1.4
    .MODEL Rmod1 RES (R=99.5 TC1=1E-3 TC2=1E-5)
    .MODEL Rmod2 RES R=1
    .ENDS ZXCT1009F
    *
    *$
    *